US06156700
Preparation of 3-[3-(Methoxymethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A solution of 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.750 g, 1.79 mmol) in 1,2-dichloroethane is diluted with methanol, treated with silver trifluoromethanesulfonate (0.610 g, 2.37 mmol), stirred overnight at room temperature, and filtered through diatomaceous earth. The resultant filtrate is washed with saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. Column chromatography of the solid using silica gel, and 2% and 5% diethyl ether in methylene chloride solutions gives the title product as a white solid (0.600 g, mp 161-163° C.) which is identified by 1H NMR spectral analysis.

reactant | 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 1.79 mmol, 0.750 g | BrCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9BrF3N3O2S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | silver trifluoromethanesulfonate | 2.37 mmol, 0.610 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | 3-[3-(Methoxymethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.600 g | COCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H12F3N3O3S
